US05278158
To a mixture of 18.2 g 4-acetyl-6-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine obtained above, 120 ml methylene chloride and 13.8 ml triethylamine, was added dropwise under ice cooling a solution of 13.7 ml trifluoroacetic anhydride in 40 ml methylene chloride over a period of 20 minutes, and the resulting mixture was stirred for one hour under ice cooling. To the reaction mixture, was added 100 ml water with stirring, the aqueous layer was extracted with chloroform, the two organic layers were put together, the combined organic solution was dried over anhydrous magnesium sulfate, the solvents were distilled off from the dried solution, and the residue was recrystallized from 60 ml ethanol, giving 22.1 g of 4-acetyl-3,4-dihydro-2,2-dimethyl-6-trifluoroacetylamino-2H-1,4-benzoxazine.

reactant | 4-acetyl-6-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine | 18.2 g | C(C)(=O)N1CC(OC2=C1C=C(C=C2)N)(C)C | C12H16N2O2
reactant | triethylamine | 13.8 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 13.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 4-acetyl-3,4-dihydro-2,2-dimethyl-6-trifluoroacetylamino-2H-1,4-benzoxazine | 22.1 g | C(C)(=O)N1CC(OC2=C1C=C(C=C2)NC(C(F)(F)F)=O)(C)C | C14H15F3N2O3
